* Diode I-V Curve
* Classic diode forward-characteristic DC sweep. A series resistor
* limits the forward current so the sweep stays within safe bounds
* while the diode enters conduction past ~0.6 V.
* Devices exercised: V, R, D (bundled 1N4148).

.title Diode I-V Curve
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Source ---
Vin in 0 DC 0

* --- Series limiter + diode under test ---
Rlim in   anode  100
D1   anode 0     1N4148

* --- Analysis: sweep Vin from 0 V to 2 V ---
.dc Vin 0 2 0.01

.MEASURE DC vf_at_1v  FIND V(anode) AT=1
.MEASURE DC vf_at_2v  FIND V(anode) AT=2

.end
